US04405635
1,3-Dihydro-4-furanoyl-2H-imidazol-2-one
To 50 ml of nitrobenzene is added 4.2 g of 1,3-dihydro-2H-imidazol-2-one, 13.3 g of aluminum chloride and 7.2 g of furanoyl chloride. The mixture is stirred at 60° C. for 3 hours and poured over ice water. The solids are filtered, washed with ether and recrystallized twice from ethanol-water to afford the title compounds. M.P. 318°-321° C.

reactant | 1,3-dihydro-2H-imidazol-2-one | 4.2 g | N1C(NC=C1)=O | C3H4N2O
reactant | aluminum chloride | 13.3 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | furanoyl chloride | 7.2 g | O1C(=CC=C1)C(=O)Cl | C5H3ClO2
solvent | nitrobenzene | 50 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
product | 1,3-Dihydro-4-furanoyl-2H-imidazol-2-one | O1C(=CC=C1)C(=O)C=1NC(NC1)=O | C8H6N2O3
